US06124323
1-[2-(4-Hydroxyphenoxy)ethyl]-4-(2-fluorobenzyl)piperidine hydrochloride
The title compound was prepared from 2-(4-benzyloxyphenoxy)ethyl bromide (0.393 g, 1.28 mmol), 4-(2-fluorobenzyl)piperidine hydrochloride (0.294 g, 1.28 mmol) and potassium carbonate (0.442 g, 3.2 mmol) in two steps as an off white solid (0.237 g), mp 196-198° C. 1H NMR (CD3OD) 1.629 (m, 2 H), 1.900 (m, 3 H), 2.704 (m, 2 H), 3.052 (m, 2 H), 3.500 (m, 2 H), 3.612 (m, 2 H), 4.252 (m, 2 H), 6.703 (d, J=9. 0 Hz, 2 H), 6.825 (6, J=9.0 Hz, 2 H), 7.057-7.248 (m, 2 H), 7.248 (m, 2 H). Anal. Calcd for C20H25ClFNO2.1.2H2O: C, 61.70; H, 7.15; N, 3.60. Found: C, 61.45; H, 6.90; N, 3.53.

reactant | 2-(4-benzyloxyphenoxy)ethyl bromide | 1.28 mmol, 0.393 g | C(C1=CC=CC=C1)OC1=CC=C(OCCBr)C=C1 | C15H15BrO2
reactant | 4-(2-fluorobenzyl)piperidine hydrochloride | 1.28 mmol, 0.294 g | Cl.FC1=C(CC2CCNCC2)C=CC=C1
reactant | potassium carbonate | 3.2 mmol, 0.442 g | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(4-Hydroxyphenoxy)ethyl]-4-(2-fluorobenzyl)piperidine hydrochloride | Cl.OC1=CC=C(OCCN2CCC(CC2)CC2=C(C=CC=C2)F)C=C1 | InChI=1S/C20H24FNO2.ClH/c21-20-4-2-1-3-17(20)15-16-9-11-22(12-10-16)13-14-24-19-7-5-18(23)6-8-19;/h1-8,16,23H,9-15H2;1H
